US06734200B1
5(R)-[N-Isoxazol-3-yl-N-(2,2,2-trichloroethyloxycarbonyl)aminomethyl]-3-[3-fluoro-4-(1-formyl-1,2,5,6-tetrahydropyrid-4-yl)phenyl]oxazolidin-2-one (Reference Example 5)
To a suspension of 5(R)-[N-isoxazol-3-yl-N-(2,2,2-trichloroethyloxycarbonyl)aminomethyl]-3-[3-fluoro-4-(1,2,5,6-tetrahydropyrid-4-yl)phenyl]oxazolidin-2-one (100 mg, 0.175 mmol) in ethyl formate (5 ml), with stirring was added, triethylamine (20 mg, 27 μl, 0.2 mmol), and the mixture was heated to reflux overnight. Ethyl formate was added and the mixture washed with 2M hydrochloric acid and saturated brine, dried over sodium sulfate and concentrated by rotary evaporation to give the crude title compound as a yellow gum (115 mg, 117%). M/z ES+(M+H)=561.

reactant | 5(R)-[N-isoxazol-3-yl-N-(2,2,2-trichloroethyloxycarbonyl)aminomethyl]-3-[3-fluoro-4-(1,2,5,6-tetrahydropyrid-4-yl)phenyl]oxazolidin-2-one | 0.175 mmol, 100 mg | O1N=C(C=C1)N(C(=O)OCC(Cl)(Cl)Cl)C[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)C1=CCNCC1)F | C21H20Cl3FN4O5
reactant | triethylamine | 0.2 mmol, 27 μl, 20 mg | C(C)N(CC)CC | C6H15N
reactant | ethyl formate | 5 ml | C(=O)OCC | C3H6O2
product | 5(R)-[N-Isoxazol-3-yl-N-(2,2,2-trichloroethyloxycarbonyl)aminomethyl]-3-[3-fluoro-4-(1-formyl-1,2,5,6-tetrahydropyrid-4-yl)phenyl]oxazolidin-2-one | 115 mg, 117% | O1N=C(C=C1)N(C(=O)OCC(Cl)(Cl)Cl)C[C@H]1CN(C(O1)=O)C1=CC(=C(C=C1)C1=CCN(CC1)C=O)F | C22H20Cl3FN4O6
